US04478833
8-(N-Benzyl-methylamino)-2-chloro-4-(1-oxido-thiomorpholino)pyrimido[5,4-d]pyrimidine
A solution of 12.2 gm (0.1 mol) of N-benzyl-methylamine in 50 ml of dioxane was slowly poured, while stirring, into a suspension of 15.9 gm (0.05 mol) of 2,8-dichloro-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]-pyrimidine in about 250 ml of dioxane, and the resulting mixture was heated at 30°-40° C. for about 30 minutes. The reaction mixture was taken up in about 1 liter of water, whereby the reaction product was precipitated as a slightly yellow precipitate. After standing for a little while, the precipitate was filtered off, washed with water and dried at about 60° C.

reactant | N-benzyl-methylamine | 0.1 mol, 12.2 gm | C(C1=CC=CC=C1)NC | C8H11N
reactant | 2,8-dichloro-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]-pyrimidine | 0.05 mol, 15.9 gm | ClC=1N=C(C2=C(N1)C(=NC=N2)Cl)N2CCS(CC2)=O | C10H9Cl2N5OS
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | about 250 ml | O1CCOCC1 | C4H8O2
solvent | water | about 1 liter | O | H2O
product | 8-(N-Benzyl-methylamino)-2-chloro-4-(1-oxido-thiomorpholino)pyrimido[5,4-d]pyrimidine | C(C1=CC=CC=C1)N(C1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)Cl)C | C18H19ClN6OS
